US07517873B2
To a mixture of 1.70 g (0.0082 mole) of (rac)-2-methyl-3-phenylamino-propanoic acid ethyl ester, 1.7 g (0.0088 mole) of 2,4-dichloro-5-nitro-pyrimidine and 60 mL of ethyl acetate, was added 4.24 mL (0.0246 mole) of N,N-diisopropylethylamine. The mixture was stirred at room temperature for 2 hours, and then washed with successively with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with hexanes-ethyl acetate (80:20) to give 2.99 g of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-phenyl-amino]-2-methyl-propanoic acid ethyl ester (IV-51) as yellow oil.

reactant | (rac)-2-methyl-3-phenylamino-propanoic acid ethyl ester | 0.0082 mole, 1.70 g | C(C)OC(C(CNC1=CC=CC=C1)C)=O | C12H17NO2
reactant | 2,4-dichloro-5-nitro-pyrimidine | 0.0088 mole, 1.7 g | ClC1=NC=C(C(=N1)Cl)[N+](=O)[O-] | C4HCl2N3O2
reactant | N,N-diisopropylethylamine | 0.0246 mole, 4.24 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
product | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-phenyl-amino]-2-methyl-propanoic acid ethyl ester | 2.99 g | C(C)OC(C(CN(C1=CC=CC=C1)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C16H17ClN4O4
